Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Cephalosporins / Penicillins / ___ / sulfa drugs, biaxin
 
Attending: ___.
 
Chief Complaint:
worsening depression, suicidal ideation, multidrug ingestion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with history of MDD and PTSD with medical history of
___ meningioma s/p removal, arrhythmia who was sent in by her
outpatient psychiatrist for worsening SI, ingesting multiple
medications, and feeling unsafe at home. Psychiatry was 
consulted
for safety evaluation. 

___ has been very depressed for several months. She has been
trying to manage as an outpatient but for the last few weeks it
has gotten acutely worse. ___ endorses poor sleep, decreased
appetite with some weight loss, decreased motivation (difficulty
making meals and getting up), poor energy, decreased interests,
poor memory and suicidal ideation. She has been telling her
therapist that she has SI with plan to OD. 2 weeks ago they
started giving pills out on a daily basis (with help of husband)
but she was able to get a weeks worth at one time and took ___
Ativan and 50mg Seroquel last night. She said it was an attempt
to hurt herself but knows it wasn't enough to kill herself. She
thought of it as more of an attempt to show her desperation. She
also took 6mg Ativan and 50mg Seroquel an hour before arrival.
She was due to have ECT consultation on ___ for ECT. She has
been tried on many medications but non have worked. She was
recently started on Lamictal which she felt helped. She 
continues
to have worsening SI and feels unsafe at home. 

She also endorses having dissociative episodes described as
having some slight chest pain then she gets aura of blurry 
vision
then gets hearing loss, becomes disoriented when awakes and very
emotional. They last about 1 hour and happens once every few
weeks. No particular triggers.

Psych ROS:
-Psychosis: Endorses VH of faces in a carpet but does not
recognize them.  denies AH, IOR, thought insertion, thought
broadcasting, paranoia
-Anxiety: denies restlessness, ruminations, panic attacks
- PTSD: Denies hypervig, ___, nightmares, avoidance  

Collateral:
Psychiatrist: Dr. ___
 ___ has been having worsening depression and has failed
multiple medication trials. She is scheduled for ECT next week
with Dr. ___ last night was taking ___ of 
Ativan,
Seroquel and wanting to take more medication. He felt he cannot
manage anymore as outpatient and needs inpatient psychiatry. 

Husband: ___ (present)
Has been having difficulty with depression for a while. 2 weeks
ago her outpatient psychiatrist and therapist got concerned 
about
her having her Ativan and Seroquel on hand so they evoked him to
help give her meds to her daily. She has expressed SI but said
that her children keep her from attempting. Thinks that she
cannot be managed as outpatient. 

PAST PSYCHIATRIC HISTORY:
Diagnoses: MDD, PTSD
Hospitalizations: denies
Current treaters and treatment: Dr. ___, Dr.
___
Medication and ECT trials: 
- trialed on Wellbutrin, Zoloft, trileptal, 
nortriptyline,effexor
- Currently on Ativan, lamicatal (feels it works well), Seroquel
for sleep 
___
Harm to others: denies
 

SUBSTANCE ABUSE HISTORY:
alcohol:  denies
Tob: denies
Illicts: 
hx of MJ in distant pass

FORENSIC HISTORY:
Arrests: Denies
Convictions and jail terms: Denies
Current status (pending charges, probation, parole)denies

 
Past Medical History:
PAST MEDICAL HISTORY:
* PCP 
- ___ meningioma s/p removal
- hip replacement
- arrhythymia 

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mother : Severe depression, episodes of mutism

 
Physical Exam:
ADMISSION EXAMINATION

*VS:  98.0 81 125/71 18 99% RA  
Neurological:  
 *station and gait: did not assess
 *tone and strength: antigravitational in all 4 ext
 cranial nerves: CN ___ no focal deficits
 abnormal movements:  no PMA/PMR

Cognition: 
 Wakefulness/alertness: Somnolent but interviewable
 *Attention (digit span, MOYB): DOWB with ___ errors and
repromting to continue in backwards order
 *Orientation: ___ ___ but was able to recorrect to 
___
 Executive function ___ go, Luria, trails, FAS):
 *Memory:   ___ immediate and ___ spontaneous after 5 min and
unable to get last one
 *Fund of knowledge:  knows current and ___ president of ___
 Calculations:  $1.75 as 7 quarters
 *Speech: normal rate, normal tone, normal prosody
 *Language: fluent ___
 
Mental Status:
 *Appearance:  female ___ appearing stated age but very
somnolent
 Behavior: cooperative but had to arouse her multiple times
 *Mood and Affect: "terribly depressed" with constricted affect,
reactive
 *Thought process / *associations:  linear, goal oriented no LOA
 *Thought Content: +SI with plan to OD , denies HI/AH/VH
 *Judgment and Insight:  impaired/impaired

DISCHARGE EXAMINATION

     Exam:
*VS: ___ RA.  
 
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN ___ intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: ___ is a ___ Caucasian woman who
appears stated age, hygiene and grooming is good, found in
hospital gown.  
  Behavior: ___ able to have calm and cooperative
conversation with examiner, appropriately laughing at jokes. . 
  *Mood and Affect: "feeling more animated"; full range of
affect, reactive, a bit anxious, but smiling and hopeful 
thoughout the interview, not labile, appropriate.
  *Thought process: Linear, logical, ___.  No LOA.  
  *Thought Content: Denies SI. Denies HI. Denies
AH.  Denies paranoia.  
  *Judgment and Insight: fair/fair.
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview, MOYB x 12.  
    *Memory: ___ registration, ___ recall
    *Fund of knowledge: Knows the president, ___ wrote
"Much Ado about nothing",
    Abstraction: "apples/oranges"- fruits, "don't judge a book 
by
it's cover" means "there more than what appears outside"
    Calculation: $1.75 has 7 quarters
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___

 
Pertinent Results:
Data reviewed:
Labs:
 ___: Na: 141
 ___: K: 4.3
 ___: Cl: 105
 ___: CO2: 26
 ___: BUN: 20
 ___: Creat: 0.6
 ___: Glucose: 91

___: WBC: 7.7
 ___: HGB: 12.0
 ___: HCT: 38.1
 ___: Plt Count: 328

 ___: Urine Glucose (Hem): NEG
 ___: Urine Protein (Hem): TR
 ___: Urine Bilirubin (Hem): NEG
 ___: Urobilinogen: NEG
 ___: Urine Ketone (Hem): NEG
 ___: Urine Blood (Hem): SM 
 ___: Urine Nitrite (Hem): NEG
 ___: Urine Leuks (Hem): NEG
 
Serum toxicology: negative
 Urine toxicology: negative

EKGs
___ QTc 418, Rate 67, question of borderline T wave
flattening of aVF, not appearing acutely concerning at this time
___ sinus bradycardia (rate 59) with PACs noted on
machine, not appreciated by this examiner, borderline prominent 
T
wave in I, borderline flattening of T wave in aVF, overall not
appearing acutely concerning at this time
___- Appears to be NSR, though EKG machine noted a PAC (not
appreciated by this examiner), QTc 424, rate 64, prominent T 
wave
in I, does not appear acutely concerning at this time.
 
Brief Hospital Course:
  

DSM 5 DIAGNOSIS:
-Major depressive disorder
-PTSD

SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  She was 
___.  She remained on supervised sharps status.

LEGAL: ___
#) Hx arrhythmia: We obtained records from her outpatient 
Cardiologist with ___ Holter monitor showing PAC/PVCs but no 
other concerning pathology. ___ HR has been in the range 
of ___. EKGs have been reassuring, when she gets more anxious 
has history of developing palpitations, ___ with 
atenolol and diltiazem.  On the evening prior to discharge, she 
had subjective palpitations with a bout of anxiety (but 
documented pulse was consistently ___ manual and auto).  
Resolved with hydroxyzine
-Continue home atenolol 50 mg PO qhs.
-Continue home diltiazem ER 120 mg PO QAM

#) Joint/leg pains: Chronic, stable, history of osteoarthritis. 
Recently prescribed meloxicam by podiatrist. On this 
hospitalization, we usedPRN ibuprofen.  

#) Meningioma: right frontal meningioma, s/p resection in ___ with follow up MRI shoing no evidence of recurrence 
(records obtained from ___
- No neurological deficit on exam, no neurological.  She does 
not
have evidence of increased ICP, no history of seizure or stroke. 
 Stable MRI from ___ with no mass lesion, records in chart.

PSYCHOSOCIAL: 
#) GROUPS/MILIEU: Mrs. ___ participated with groups.  Staff 
noted that she was 
able to respond to other patients and offer insight.  The pt. 
was visible on the unit for  much of her stay and interacted 
well with others.  When she was 
first admitted, she reported that she did not want to interact 
with peers, but this changed over time.  

#) COLLATERAL CONTACTS:  The team was in contact with the pt's 
therapist, Dr. ___ Dr. ___ the ___ 
stay.  The team also communicated 
with the pt's Cardiologist and Neurosurgeon for records to help 
guiding the team's medical clearance for ECT.  

#) FAMILY INVOLVEMENT:   The team met with the husband, ___, 
and daughter, ___, who provided collateral information and 
helped in creating a ___ 
plan.    

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of,  and possible side effects and risks of 
starting this medication, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
___.   We discussed the ___ right to decide whether to 
 take this medication as well as the importance of the ___ 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the ___ questions.  The ___ appeared able to 
understand and consented to begin the medication.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 1 mg PO BID:PRN anxiety 
2. QUEtiapine Fumarate ___ mg PO QHS:PRN Insomnia 
3. Atenolol 50 mg PO QHS 
4. Diltiazem ___ 120 mg PO QAM 
5. LaMOTrigine 125 mg PO BID 
6. meloxicam 15 mg oral DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO QHS 
2. Diltiazem ___ 120 mg PO QAM 
3. LaMOTrigine 125 mg PO BID 
4. Mirtazapine 15 mg PO QHS:PRN sleep 
RX *mirtazapine 15 mg 1 tablet(s) by mouth nightly Disp #*14 
Tablet Refills:*0
5. HydrOXYzine 50 mg PO Q6H:PRN anxiety 
RX *hydroxyzine HCl 50 mg 1 tab by mouth every 6 hours Disp #*56 
Tablet Refills:*0
6. meloxicam 15 mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder
suicidal ideation
medication overdose

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

DISCHARGE EXAM

     Exam:
*VS: ___ RA.  
 
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN ___ intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: ___ is a ___ Caucasian woman who
appears stated age, hygiene and grooming is good, found in
hospital gown.  
  Behavior: ___ able to have calm and cooperative
conversation with examiner, appropriately laughing at jokes. . 
  *Mood and Affect: 'feeling more animated'; full range of
affect, reactive, a bit anxious, but smiling and hopeful 
thoughout the interview, not labile, appropriate.
  *Thought process: Linear, logical, ___.  No LOA.  
  *Thought Content: Denies SI. Denies HI. Denies
AH.  Denies paranoia.  
  *Judgment and Insight: fair/fair.
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview, MOYB x 12.  
    *Memory: ___ registration, ___ recall
    *Fund of knowledge: Knows the president, ___ wrote
'Much Ado about nothing',
    Abstraction: 'apples/oranges'- fruits, 'don't judge a book 
by
it's cover' means 'there more than what appears outside'
    Calculation: $1.75 has 7 quarters
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___

 
Discharge Instructions:
You were hospitalized at ___ for worsening depression and 
medication overdose (Ativan and Seroquel).  While you were here 
we involved Dr. ___ Dr. ___ in a discussion 
about the utility of proceeding with ECT, although ultimately 
you decided that you did not want ECT at this time.  While you 
were here we discontinued Ativan and Seroquel in favor of 
alternatives for mood/anxiety (MIRTAZAPINE 15mg NIGHTLY AS 
NEEDED and HYDROXYZINE 50mg every 6 hours as needed).  Your mood 
improved with inpatient management.  We adjusted your 
medications, and you are now ready for discharge and continued 
treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___